Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Percocet / Miralax
 
Attending: ___.
 
Chief Complaint:
confusion; "family says I'm talking stupid"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Pt is a ___ y.o woman with h.o DM2, HTn, afib on anticoagulation,
CKD s/p b/l BKA, HL, PVD, hidradenitis who presented to the ED
per pt at her family's request. Pt states that her family stated
that she "was not fine" and was "talking stupid". Pt denies any
of this and states that she feels fine and feels like her usual
self. Pt denies any pain. However, reports some intermittent b/l
inner thigh burning "when she is on her legs too long". 
Otherwise
denies weakness, dizziness. She reports intermittent ongoing
headaches, but denies any currently or paresthesias, weakness,
bowel/bladder incontinence, n/v, fever or chills, blurred 
vision.
Of note, she reports chronic, ongoing x years R.breast rash and
intermittent drainage for which she sees a dermatologist but is
unable to afford her medication for this, ?minocycline as
insurance does not cover it. 
Of note, she otherwise denies, cough, CP, palpitations, 
abdominal
pain, n/v/d/c/melena/brbpr, dysuria or other urinary changes. 
She
denies rash or joint pain. Of note, she reports a 60lb weight
gain over the last 6 months due to less mobility but denies 
other
changes in her diet. She is unsure why she is in a hospital and
declines nursing home placement. 

Pt's family also reporting recent falls and that they are
uncomfortable with her being home alone. ___ evaluated pt and
recommended rehab. Additionally, OMR notes report that pt's
husband just passed away in ___. 

10pt ROS reviewed and otherwise negative
 
Past Medical History:
- Nephrotic Syndrome, work up negative, presumed secondary to 
DM-II, followed by Dr. ___ 
-___ fibrillation s/p ablation in ___ followed by Dr. 
___, on apixaban
-___ vascular dx s/p bilateral BKA (followed by Dr. 
___
-CAD
-DM II insulin dependent c/b neuropathy (A1C 8.7% ___
-Stage 3 CKD (Cr 1.5-1.7 baseline ___, wt usually 256-268lb 
(___)
-Hyperparathyroidism

PSH:
- Right and left Below knee amputation
- Postpartum tubal ligation
- Hysterectomy
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death.
 
Physical Exam:
====================
Admission Exam:
Gen:well appearing, lying in bed, NAD
vitals:98.5
PO 137 / 73 94 20 96 Ra 
head:nc at 
ENT:eomi, anicteric, dry MM, no visible OP lesions
neck:supple
respiratory:b/l ae no w/c/r
cardiac:s1s2 irreg rate, no m/r/g
gastrointestinal:+bs, soft, NT, ND, no guarding or rebound
extremities:s/p b/l BKA no skin lesions noted 
neurologic:AAOx3, CN ___ intact, motor ___ x 4, sensation 
intact
to LT, no tremor 
psych:calm, cooperative 
skin: R.breast with old areas  ?abscess formation and darkened
pigmentation, no erythema or drainage currently. 
====================
Discharge Exam:
GENERAL: morbidly obese, alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate 
CV: Heart regular, no murmur appreciated
RESP: Lungs clear to auscultation with good air movement 
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel 
sounds present
MSK: bilateral BKAs, moving UEs spontaneously and with purpose
SKIN: mild dry skin of distal stumps; erythema without discharge 
of R breast fold; pressure ulcer of right upper posterior thigh 
not visualized today (present per ___ RN report)
NEURO: A&Ox3, sensation and strength grossly intact/symmetric, 
able to do MOYB without errors
PSYCH: generally calm, full range of affect
 
Pertinent Results:
================================================
Pertinent results:

Phos 2.3 ->2.1
Ca ___ -> 10.5
Alb 3.4
Cre 1.6 -> 1.4
B12 920
TSH 0.95
HGB ~10

CT head ___
 There is no evidence of acute intracranial hemorrhage, midline 
shift, mass
effect, or acute large vascular territorial infarct.  
Periventricular and
subcortical white matter hypodensities are likely sequelae of 
chronic small
vessel disease.  The visualized paranasal sinuses are clear.  
The mastoid air cells are clear.  No acute fracture is seen.

CXR ___
Lung volumes remain slightly low.  Stable cardiomediastinal 
silhouette.  No
pulmonary edema, effusion, pneumothorax, or focal consolidation 
is seen. 
Degenerative changes in the thoracic spine may be mild, but not 
well assessed on this study.

================================================
Discharge labs:

___ 07:15AM BLOOD WBC-6.3 RBC-3.41* Hgb-9.5* Hct-32.4* 
MCV-95 MCH-27.9 MCHC-29.3* RDW-13.6 RDWSD-47.2* Plt ___
___ 07:15AM BLOOD Glucose-113* UreaN-23* Creat-1.6* Na-146* 
K-4.0 Cl-113* HCO3-25 AnGap-12
___ 07:15AM BLOOD Albumin-2.9* Calcium-10.8* Phos-3.0 
Mg-1.___ year old woman with HTN, HL, PVD, CKD, bilateral BKAs, 
hyperparathyroidism, afib on apixaban, hydradenitis supp, who 
presented to the ED due to confusion reported by family and 
increasing falls. Family reports several weeks of patient 
intermittently reporting recent visits with family members that 
had not actually occurred. Of note patient's husband who lives 
in ___ died several days ago, and so she attributed her 'odd 
behavior' to her grieving, but her children state that her 
instances of confusion preceded this. Also patient has been 
calling her lifeline ___, because she lives alone and 
makes transfers from wheelchair to bed/chair using prosthetics 
but has been falling increasingly and is deconditioned. However 
she was adamantly opposed to rehab and became very upset if this 
is brought up. She was A&Ox3 but also becomes upset if asked to 
do more extensive mental status testing such as ___ backwards, 
so full mental status assessment was limited. Her calcium was 
elevated but similar to the range she has previously inhabited. 
Patient alert and oriented through admission without obvious 
confusion.

#Periods of confusion: 
Broad differential. Unclear if mild relatively stable 
hyeprcalcemia could be playing a role or not. Chronic 
neurodegenerative process +/- psychiatric factor seems likely. 
No episodes seen during her hospitalization.  We recommend 
consideration of outpatient neurocognitive evaluation if 
episodes recur/continue.

# Repeated falls
Evaluated by ___ in ED. Initially recommended rehab, which 
patient adamantly refused. Serial ___ evaluations were done, and 
patient was eventually cleared for home with home ___ (she was 
independent in transfers from bed to chair on day of discharge). 
Home ___ set up.

# Pressure ulcer: stage II of right upper posterior thigh
Wound care consulted and gave these recommendations:
1. Cleanse with wound cleanser, gently pat completely dry.
2. Apply 4x4 mepilex, change Q 3days, PRN
3. Waffle cushion for chair.
4. Physical Therapy consult upon d/c for in house wheel chair 
evaluation & cushion.

#Hypercalcemia, parathyroidism: has seen endocrine in past but 
apparently did not move forward with further work-up/treatment. 
Levels have been fairly stable over time. Can consider 
revisiting endocrine work-up as outpatient if patient amenable

#CKD: baseline suspected to be 1.5-1.7. Came in at 1.4, went up 
to 1.6 after poor PO intake while in ED, so initially diuretic 
held and given IVFs

#Hydradenitis suppurativa:
Followed by derm. Prescribed topical clinda+minocycline but 
awaiting prior auth for minocycline. She felt her R breast fold 
erythema was worse. No discharge/drainage.  Started the 
minocycline during admission

#afib on apixaban: dose had been reduced during last admission 
when she had bad ___. However with improved renal function 
returned to ___ BID dosing

===========================================
Transitional issues:

(1) consider outpatient neurocognitive evaluation if episodes of 
confusion recur
(2) consider further endocrine evaluation of hyperparathyroidism
(3) derm follow-up for hydradenitis sup
(4) follow-up pressure ulcer on right leg
(5) continued discussion of goals of care and optimal living 
situation with patient and family

===========================================
Time in care:
75 minutes in discharge-related activities today.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Clindamycin 1% Solution 1 Appl TP BID 
2. Gabapentin 600 mg PO QPM 
3. Metoprolol Succinate XL 100 mg PO DAILY 
4. amLODIPine 5 mg PO DAILY 
5. Apixaban 2.5 mg PO BID 
6. Atorvastatin 80 mg PO QPM 
7. levemir 120 Units Bedtime
novalog 30 Units Breakfast
novalog 30 Units Lunch
novalog 30 Units Dinner
Insulin SC Sliding Scale using HUM InsulinMax Dose Override 
Reason: home regimen

8. Ferrous Sulfate 325 mg PO DAILY 
9. Torsemide 60 mg PO DAILY 
10. Aspirin 81 mg PO DAILY 
11. Amitriptyline 50 mg PO QHS 
12. Vitamin D 5000 UNIT PO DAILY 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
2.  levemir 120 Units Bedtime
novalog 30 Units Breakfast
novalog 30 Units Lunch
novalog 30 Units Dinner
Insulin SC Sliding Scale using HUM InsulinMax Dose Override 
Reason: home regimen
 
3.  Amitriptyline 50 mg PO QHS 
RX *amitriptyline 50 mg 1 tablet(s) by mouth at bedtime Disp 
#*30 Tablet Refills:*0 
4.  amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
5.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
6.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth QPM Disp #*30 Tablet 
Refills:*0 
7.  Clindamycin 1% Solution 1 Appl TP BID 
RX *clindamycin phosphate 1 % Apply topically to affected area 
twice a day Refills:*0 
8.  Ex-Lax (sennosides) (sennosides) 30 mg oral DAILY 
RX *sennosides [Ex-Lax (sennosides)] 15 mg 2 tablet(s) by mouth 
daily Disp #*60 Tablet Refills:*0 
9.  Ferrous Sulfate 325 mg PO DAILY  
10.  Gabapentin 600 mg PO QPM 
RX *gabapentin 600 mg 1 tablet(s) by mouth QPM Disp #*30 Tablet 
Refills:*0 
11.  Metoprolol Succinate XL 100 mg PO DAILY 
RX *metoprolol succinate 100 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
12.  Torsemide 60 mg PO DAILY 
RX *torsemide 20 mg 3 tablet(s) by mouth daily Disp #*90 Tablet 
Refills:*0 
13.  Vitamin D 5000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Repeated Falls
Hypercalcemia
Reported episodes of confusion
Pressure ulcer of right upper posterior thigh
Hyperparathyroidism
CKD
Afib
Hydradenitis Suppurativa
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of bed to chair or wheelchair (independent 
with transfers)
 
Discharge Instructions:
You were admitted to the hospital due to falls and concerns from 
your family that you have been confused at times recently. While 
in the emergency department you were evaluated by physical 
therapy, who recommended rehab to help improve your strength and 
safety at home. You refused rehab despite a discussion of the 
potential benefits. You were re-evaluated by ___, who advised 
that you would benefit from continued physical therapy at home.  
We had a family meeting in which it became clear that you and 
your adult children are having some trouble agreeing on how you 
are doing at home and what level of assistance you actually 
need.

There was one medication change during this hospitalization, 
your home dose of apixiban was increased from 2.5 mg twice daily 
to 5 mg twice daily.  Otherwise your home medications were 
continued as-is on discharge.  Prescriptions were sent to your 
pharmacy (CarePlus).

You will have visiting ___ to help you improve your ability to 
be independent and manage at home.

You will have social work assistance through our PACT team 
program to help you identify additional services in the 
community that may be beneficial to you.
 
Followup Instructions:
___